US04322370
A mixture of 4-(3,4-dichlorophenyl)-7-hydroxy-2,2-dimethyl-1-tetralone (2.3 g) and sodium hydride (0.4 g, 60% dispersion in oil) was refluxed in toluene (20 ml) until evolution of hydrogen had ceased. A solution of 2-dimethylaminoethylchloride (1.2 g) in toluene (15 ml) was added dropwise and the mixture refluxed for 3 hr. The solvent was removed and the residue shaken with ether-dilute hydrochloric acid. The aqueous layer was separated, basified, extracted with ether and the extract dried (MgSO4). Evaporation gave the product as the free base, which was converted to the hydrochloride salt. Recrystallisation from ether-ethyl acetate gave 4-(3,4-dichlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-tetralone hydrochloride as white crystals, (2.2 g, 72%) m.p. 180°-5° C.

reactant | 4-(3,4-dichlorophenyl)-7-hydroxy-2,2-dimethyl-1-tetralone | 2.3 g | ClC=1C=C(C=CC1Cl)C1CC(C(C2=CC(=CC=C12)O)=O)(C)C | C18H16Cl2O2
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-dimethylaminoethylchloride | 1.2 g | CN(CCCl)C | C4H10ClN
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3,4-dichlorophenyl)-2,2-dimethyl-7-(2-dimethylaminoethoxy)-1-tetralone hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CC(C(C2=CC(=CC=C12)OCCN(C)C)=O)(C)C | InChI=1S/C22H25Cl2NO2.ClH/c1-22(2)13-18(14-5-8-19(23)20(24)11-14)16-7-6-15(12-17(16)21(22)26)27-10-9-25(3)4;/h5-8,11-12,18H,9-10,13H2,1-4H3;1H
